* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1247.asc
* Generated by LTspice 24.1.9 for Windows.
M§Q1 N001 N002 N005 N005 Si4410DY
R1 N005 0 .1
R2 N003 N007 6.2K
C1 0 N007 500p
C2 N006 N004 100p
L1 IN N001 10µ
V1 IN 0 17
D1 N001 OUT 1N5818
C3 OUT 0 390µ Rser=25m
R3 OUT N004 90K
R4 N004 0 10K
C4 N008 N004 250p
R5 N006 N008 3K
X§U1 N006 N004 N005 N007 0 N002 IN N003 LT1247
Rload OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2m startup
.lib LT1247.sub
.backanno
.end
